* source TEST123
V_V3         0 N05979 9
Q_Q4         N05673 N05593 N05491 QBC856B 
Q_Q2         N05491 N05471 N07661 QBC856B 
Q_Q5         N05677 N06063 N05491 QBC856B 
V_V2         N05393 0 9
Q_Q3         N05495 N05471 N07657 QBC856B 
Q_Q6         N05673 N05673 N058292 QBC846B 
R_R5         N05979 N058292  100 TC=0,0 
R_R10         N056251 N10364  22k TC=0,0 
R_R11         N06063 N10364  10k TC=0,0 
R_RL         N38727 N08450  10k TC=0,0 
R_R6         N05979 N058472  100 TC=0,0 
R_R12         0 N06063  10k TC=0,0 
Q_Q8         N05495 N05677 N55066 QBC846B 
Q_Q7         N05677 N05673 N058472 QBC846B 
R_R7         N05593 N10360  1k TC=0,0 
C_C1         0 N05593  10n  TC=0,0 
R_R2         N07661 N05393  100 TC=0,0 
R_R3         N07657 N05393  100 TC=0,0 
X_POT1         0 N08450 N31671 POT PARAMS: SET=0 VALUE=10k
X_POT2         N10360 N10364 N10364 POT PARAMS: SET=1 VALUE=10k
R_R9         N106561 N05393  220 TC=0,0 
R_R1         N219601 N05393  100 TC=0,0 
Q_Q1         N05471 N05471 N219601 QBC856B 
R_R4         N05979 N05471  22k TC=0,0 
R_R8         N10360 N10364  10k TC=0,0 
R_R13         N315341 N056251  6.8k TC=0,0 
Q_Q9         N05393 N05495 N10364 QBC846B 
Q_Q10         N05979 N05495 N10364 QBC856B 
X_D2         N41215 0 LED PARAMS: IS=8.8013e-028 RS=2  BV=5 IBV=20e-3         
R_RL1         0 N38727  1k TC=0,0 
R_R15         N31671 N315341  2.2k TC=0,0 
R_R14         N41215 N106561  51 TC=0,0 
R_R17         N504841 N50470  51 TC=0,0 
X_D3         0 N504841 LED PARAMS: IS=8.8013e-028 RS=2  BV=5 IBV=20e-3         
R_R16         N50470 N05979  220 TC=0,0 
Q_Q11         N55066 N55066 N05979 QBC846B 
